US06762320B2
Cyclopropane-1,1-dicarboxylic Acid amide [2-fluoro-4-(4-fluoro-benzyloxy)-phenyl]-amide
A mixture of 2-fluoro-4-(4-fluoro-benzyloxy)-phenylamine (1:1) hydrochloride (272 mg, 1 mmol), 1-carboxycyclopropanecarboxamide (129 mg, 1 mmol), N-(3-dimethylaminopropyl)-N′ethylcarbodiimide hydrochloride (EDCI, 211 mg, 1.1 mmol) and triethylamine (111 mg, 1.1 mmol) in DCM (7 mL) was stirred at rt for 2 h. Then the mixture was poured into water and the mixture extracted with DCM. The combined organic extracts were then dried and evaporated to afford the title compound (130 mg, 38%) as a light brown solid after purification by chromatography on silica gel eluting with ethyl acetate: heptane (1:1 to 3:1). MS: m/e=347.0 (M++H).

reactant | 2-fluoro-4-(4-fluoro-benzyloxy)-phenylamine | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)F)N | C13H11F2NO
reactant | hydrochloride | 1 mmol, 272 mg | Cl | ClH
reactant | 1-carboxycyclopropanecarboxamide | 1 mmol, 129 mg | C(=O)(O)C1(CC1)C(=O)N | C5H7NO3
reactant | N-(3-dimethylaminopropyl)-N′ethylcarbodiimide hydrochloride | 1.1 mmol, 211 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.1 mmol, 111 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Cyclopropane-1,1-dicarboxylic Acid amide [2-fluoro-4-(4-fluoro-benzyloxy)-phenyl]-amide | 130 mg, 38% | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)F)NC(=O)C1(CC1)C(=O)N | C18H16F2N2O3
